US07429565B2
[1-Cyano-5-(4-hydroxy-6-methoxy-7-methyl-3-oxo-1,3-dihydro-isobenzofuran-5-yl)-3-methyl-pent-3-enyl]-phosphonic acid diethyl ester
{1-Cyano-5-[6-methoxy-7-methyl-3-oxo-4-(2-trimethylsilanyl-ethoxy)-1,3-dihydro-isobenzofuran-5-yl]-3-methyl-pent-3-enyl}-phosphonic acid diethyl ester (25 mg, 0.047 mmol) was dissolved in a solution of 10% TFA/CH2Cl2 (5 mL) and stirred at room temperature for 2 hours. The reaction mixture was dried under reduced pressure and the product was purified by RP-HPLC to provide 16 mg (80%) of the desired product as a white solid. 1H NMR (300 MHz, CDCl3) δ 1.38 (t, 6H), 1.86 (s,3H), 2.15 (s, 3H), 2.40-2.58 (m, 2H), 3.01-3.14 (m, 1H), 3.45 (d, J=7.2 Hz, 2H), 3.79 (s, 3H), 4.18-4.30 (m, 4H), 5.21 (s, 2H), 5.48 (t, J=7.2 Hz, 1H) ppm; 31P (121.4 MHz, CDCl3) δ 18.09 ppm; MS (m/z) 436 [M−H]−, 438 [M+H]+.

reactant | {1-Cyano-5-[6-methoxy-7-methyl-3-oxo-4-(2-trimethylsilanyl-ethoxy)-1,3-dihydro-isobenzofuran-5-yl]-3-methyl-pent-3-enyl}-phosphonic acid diethyl ester | 0.047 mmol, 25 mg | C(C)OP(OCC)(=O)C(CC(=CCC=1C(=C2C(OCC2=C(C1OC)C)=O)OCC[Si](C)(C)C)C)C#N | C26H40NO7PSi
solvent | TFA CH2Cl2 | 5 mL | C(=O)(C(F)(F)F)O.C(Cl)Cl
product | [1-Cyano-5-(4-hydroxy-6-methoxy-7-methyl-3-oxo-1,3-dihydro-isobenzofuran-5-yl)-3-methyl-pent-3-enyl]-phosphonic acid diethyl ester | 16 mg, 80% | C(C)OP(OCC)(=O)C(CC(=CCC=1C(=C2C(OCC2=C(C1OC)C)=O)O)C)C#N | C21H28NO7P
